### PR TITLE
Prove tc_caps_invs' and tc_sched_invs'

### PR DESCRIPTION
**Pull request by ryybrr**

### CODE REVIEW

File: proof/refine/ARM/KHeap_R.thy [hunk 1]
```diff
@@ -3497,19 +3497,14 @@ lemma state_refs_of_cross:
...
-  apply (clarsimp simp: valid_ready_qs_def)
-  apply (frule state_relation_ready_queues_relation)
-  apply (clarsimp simp: ready_queues_relation_def)
-  apply (prop_tac "st_tcb_at runnable t s")
-   apply (fastforce simp: vs_all_heap_simps pred_tcb_at_def obj_at_def)
-  apply (fastforce intro: sts_rel_runnable
-                   dest!: st_tcb_at_coerce_concrete
-                    simp: st_tcb_at'_def obj_at'_def)
-  done
+   \<Longrightarrow> ready_qs_runnable s'"
```
Comment (michaelmcinerney) [inline proof/refine/ARM/KHeap_R.thy:3500]: Slickkkkk

File: proof/refine/ARM/Tcb_R.thy [hunk 2]
```diff
@@ -2452,6 +2453,26 @@ lemma installTCBCap_invs':
...
   done
 
+lemma installThreadBuffer_invs':
+  "\<lbrace>\<lambda>s. invs' s \<and> (\<forall>newCap srcSlot. slot_opt = Some (newCap,srcSlot) \<longrightarrow>
+                                     sch_act_simple s \<and> tcb_at' target s \<and>
+                                     is_aligned newCap msg_align_bits \<and>
+                                     (\<forall>x. (\<exists>y. srcSlot = Some (x, y)) \<longrightarrow>
+                                          valid_cap' x s \<and> capBadge x = None \<and>
+                                          \<not> isReplyCap x \<and> \<not> isIRQControlCap x))\<rbrace>
+    installThreadBuffer target slot slot_opt
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:2463]: Indentation

File: proof/refine/ARM/Tcb_R.thy [hunk 3]
```diff
@@ -3097,100 +3142,176 @@ lemma tc_corres_sched:
...
-                         checkCap_inv[where P="valid_cap' c" for c] checkCap_inv[where P=sch_act_simple]
-                         hoare_vcg_const_imp_lift_R assertDerived_wp_weak static_imp_wpE cteDelete_deletes
-                         hoare_vcg_all_lift_R hoare_vcg_conj_liftE1 hoare_vcg_const_imp_lift_R hoare_vcg_propE_R
-                         cteDelete_invs' cteDelete_typ_at'_lifts cteDelete_sch_act_simple)+
-  apply (clarsimp simp: tcb_cte_cases_def cte_level_bits_def objBits_defs tcbIPCBufferSlot_def)
-  by (auto dest!: isCapDs isReplyCapD isValidVTableRootD simp: isCap_simps)
-  *)
+  apply (wpsimp wp: hoare_vcg_all_lift hoare_weak_lift_imp setP_invs'
+                    installTCBCap_invs' installThreadBuffer_invs' installTCBCap_sch_act_simple
+                    setMCPriority_invs' )
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:3179]: Extra space

File: proof/refine/ARM/Tcb_R.thy [hunk 4]
```diff
@@ -3097,100 +3142,176 @@ lemma tc_corres_sched:
...
+   \<lbrace>\<lambda>_ s. Q (obj_at' (\<lambda>sc. P (scTCB sc)) p s)\<rbrace>"
+  by (wpsimp wp: checkCap_inv assertDerived_wp cteDelete_fh_lift
+           simp: installTCBCap_def locateSlotTCB_def locateSlotBasic_def tcbFaultHandlerSlot_def
+                 getThreadFaultHandlerSlot_def cte_level_bits_def cte_map_def
+                 tcb_cnode_index_def objBits_defs objBits_def objBitsKO_def)
+
+lemma installTCBCap_bound_sc_tcb_at':
+  "\<lbrace>\<lambda>s. bound_sc_tcb_at' P t s \<and> invs' s \<and> tcb_at' target s \<and>
+          cte_wp_at' (isValidFaultHandler \<circ> cteCap) (cte_map (target, tcb_cnode_index 3)) s\<rbrace>
+     installTCBCap target slot 3 slot_opt
```
Comment (michaelmcinerney) [inline proof/refine/ARM/Tcb_R.thy:3267]: Indentation

**Review by michaelmcinerney — APPROVED** [review]
Very nice! Just a few nitpicks. And cool use of asserts, too

File: proof/refine/ARM/Tcb_R.thy [hunk 5]
```diff
@@ -2998,97 +3035,107 @@ lemma tc_corres_sched:
...
+               apply (wpsimp wp: set_priority_valid_sched hoare_vcg_all_lift hoare_vcg_const_imp_lift)
+              apply (rule_tac Q=" \<lambda>_ s. invs' s \<and> tcb_at' t s \<and> ex_nonz_cap_to' t s \<and>
+                                        (\<forall>scp. sc_opt = Some (Some scp) \<longrightarrow> ex_nonz_cap_to' scp s)"
+                           in hoare_strengthen_post[rotated], fastforce split: option.split)
+              apply (wpsimp wp: setP_invs' hoare_vcg_all_lift hoare_vcg_const_imp_lift)
+             apply clarsimp
+             apply (prop_tac "ct_active s \<and> ct_released s", erule conjunct1)
+             apply simp
+            apply clarsimp
+            apply (prop_tac "invs' s' \<and> tcb_at' t s' \<and> ex_nonz_cap_to' t s' \<and>
```
Comment (MitchellBuckley) [inline proof/refine/ARM/Tcb_R.thy:3091]: I'm slightly confused about prop_tac --> assumption. If assumption proves the statement, doesn't that mean the statement already exists in the hypotheses, and so the prop_tac is not useful? Can you explain briefly what's happening here?

**Review by MitchellBuckley — APPROVED** [review]
Great! Lots of very neat proofs :)

File: proof/refine/ARM/Tcb_R.thy (hunk 5 above)
Comment (ryybrr) [reply proof/refine/ARM/Tcb_R.thy:3091]: There are two `stronger_corres_guard_imp` applications in the proof, and we resolve the concrete guard of one of them at this point. `prop_tac` is used to introduce the stronger guard, then `assumption` is used to unify it with the appropriate schematic.

File: proof/refine/ARM/Tcb_R.thy [hunk 6]
```diff
@@ -3097,100 +3144,176 @@ lemma tc_corres_sched:
...
+        bound_sc_tcb_at' (\<lambda>sc. sc = None) tcbPtr s \<and> obj_at' (\<lambda>sc. scTCB sc = None) scPtr s\<rbrace>
+   schedContextBindTCB scPtr tcbPtr
+   \<lbrace>\<lambda>_. invs'\<rbrace>"
+  apply (simp add: schedContextBindTCB_def)
+  apply (subst bind_assoc[symmetric, where m="threadSet _ _"])
+  apply (rule hoare_seq_ext)+
+      apply wpsimp
+     apply (wpsimp wp: isSchedulable_wp)
+    apply (clarsimp simp: isSchedulable_bool_runnableE)
+    apply (wp (once) hoare_drop_imps, wp (once) hoare_drop_imps, wp hoare_vcg_imp_lift')
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:3220]: That's a bit of an unpleasant pattern, but I guess acceptable if it's necessary, and it does look necessary. It would be nice to avoid this, but I don't think any of my usual tricks with `hoare_drop_imps` would apply.

File: proof/refine/ARM/Tcb_R.thy [hunk 7]
```diff
@@ -3097,100 +3144,176 @@ lemma tc_corres_sched:
...
 
+crunches cteInsert, emptySlot, cancelAllIPC
+  for sc_tcb_sc_at'[wp]: "\<lambda>s. Q (obj_at' (\<lambda>sc. P (scTCB sc)) p s)"
+  (wp: crunch_wps)
+
+lemma installTCBCap_sc_tcb_sc_at:
+  "\<lbrace>\<lambda>s. Q (obj_at' (\<lambda>sc. P (scTCB sc)) p s) \<and> invs' s \<and> tcb_at' target s \<and>
+        cte_wp_at' (isValidFaultHandler \<circ> cteCap) (cte_map (target, tcb_cnode_index 3)) s\<rbrace>
+   installTCBCap target slot 3 slot_opt
+   \<lbrace>\<lambda>_ s. Q (obj_at' (\<lambda>sc. P (scTCB sc)) p s)\<rbrace>"
```
Comment (corlewis) [inline proof/refine/ARM/Tcb_R.thy:3260]: These lemmas are specifically for the threadFaultHandlerSlot (slot 3). Maybe that should be shown in the name as well?

**Review by corlewis — APPROVED** [review]
Great work!

File: proof/refine/ARM/Tcb_R.thy (hunk 6 above)
Comment (mktnk3) [reply proof/refine/ARM/Tcb_R.thy:3220]: A possible alternative would be using `hoare_strengthen_post` to rewrite the postconditions to what you need.

**Review by mktnk3 — APPROVED** [review]
This is very nice. Thanks for pushing through these giant proofs. A few style/proof improvement suggestions from me but nothing major.
